US05886177
Hypoxanthine is treated as in the procedure of Example 1 with glycidol in the presence of potassium carbonate to give 1-(hypoxanthine-9-yl)-2,3-propandiol. The resulting 1-(9-hypoxanthine)-2,3-propandiol is treated with dimethoxytrityl chloride in pyridine as in Example 2 to give 1-(9-hypoxanthine)-3-O-dimethoxytrityl-2-propanol. The resulting 1-(9-hypoxanthine)-3-O-dimethoxytrityl-2-propanol is phosphitylated with chloro-β-cyanoethoxy-N,N-diisopropylaminophosphine as per Example 3 to give the title compound.

reactant | Hypoxanthine | N1C=NC=2N=CNC2C1=O | C5H4N4O
reactant | glycidol | C1C(O1)CO | C3H6O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 1-(hypoxanthine-9-yl)-2,3-propandiol | N1C=NC=2N(C=NC2C1=O)CC(CO)O | C8H10N4O3
